datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([C:18]([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[C:18]([C:17]([H:25])([H:26])[H:27])([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])[H:10])[H:9])([H:7])[H:8],34.6854
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]#[C:6][H:13])[C:7]#[C:8][H:14])[H:9].[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[C:6][H:13])([C:7]#[C:8][H:14])[H:15])[H:9],14.393
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([S:9][H:16])([C:10](=[S:11])[H:17])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[S:3])[H:15])[H:6])([H:4])[H:5].[C:7]([C:8]([S:9][H:16])[C:10](=[S:11])[H:17])([H:12])([H:13])[H:14],48.116
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])=[C:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:7].[H:15]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[C:5]([C:6]([H:12])([H:13])[H:14])([H:11])[H:15])[H:7],-1.79912
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])[H:15])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])[H:11])([H:9])[H:10],178.531
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([O:6][H:17])[H:10])([H:7])([H:8])[H:9],65.2704
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[S:10]([S:11][H:13])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:12])[H:5].[S:10][S:11][H:13],6.6944
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([C:19]([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])([H:26])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:19]([C:18]([H:26])([H:27])[H:28])([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])[H:8],33.6812
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14],2.5104
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:17](=[C:18]([H:20])[H:21])[H:19])[H:7],3.59824
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][C:6]([C:7]([H:18])([H:19])[H:20])=[O:8])[H:14])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[H:14])[H:13])[H:11])([H:9])[H:10].[O:5]=[C:6]([C:7]([H:18])([H:19])[H:20])[O:8][H:12],183.6776
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[H:8][C:11]([H:12])([H:13])[H:14],0.0
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7]([H:9])[H:10])[H:8]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:6](=[C:7]([H:9])[H:10])[H:8])[H:4],18.828
[C:0]([C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:14][O:15]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([H:10])[O:14][O:15])([H:8])[H:9])([H:5])([H:6])[H:7],0.0
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12]>>[C:0]([O:1][C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:2])([H:3])[H:4].[H:5],165.796
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([S:12][H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:16])[H:6])([H:4])[H:5].[C:11]([S:12])([H:13])([H:14])[H:15],23.8488
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[O:14][H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:14][H:15],-6.07098
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8](=[S:9])[H:12])([H:10])[H:11]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:7]([C:8](=[S:9])[H:12])([H:10])[H:11],77.6969
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])=[C:4]1[C:5]1([H:14])[C:6]([H:15])=[C:7]([H:16])[C:8]([H:17])=[C:9]1[H:18]>>[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])=[C:4]1[C:5]1=[C:6]([H:15])[C:7]([H:16])=[C:8]([H:17])[C:9]1([H:14])[H:18],69.8728
